US03996282
Proceeding in a manner similar to that described above in D -la, 16 parts of 1-dimethylamino-2-propanol and 32 parts of 4-methoxy-3-nitrobenzyl chloride were interacted in 14 parts of water to obtain N-(3-nitro-4-methoxybenzyl)-N-(2-hydroxy-propyl)-N,N-dimethylammonium chloride. The product was not isolated but was used directly in solution for reduction of the nitro group.

reactant | 1-dimethylamino-2-propanol | CN(CC(C)O)C | C5H13NO
reactant | 4-methoxy-3-nitrobenzyl chloride | COC1=C(C=C(CCl)C=C1)[N+](=O)[O-] | C8H8ClNO3
solvent | water | O | H2O
product | N-(3-nitro-4-methoxybenzyl)-N-(2-hydroxy-propyl)-N,N-dimethylammonium chloride | [Cl-].[N+](=O)([O-])C=1C=C(C[N+](C)(C)CC(C)O)C=CC1OC | InChI=1S/C13H21N2O4.ClH/c1-10(16)8-15(2,3)9-11-5-6-13(19-4)12(7-11)14(17)18;/h5-7,10,16H,8-9H2,1-4H3;1H/q+1;/p-1
